US08710061B2
To a solution of (2-methoxyphenyl)magnesium bromide in THF (47.4 ml, 47.4 mmol) was added Copper(I) iodide (0.632 g, 3.32 mmol). The resulting solution was stirred at RT for 10 min. 6-oxabicyclo[3.1.0]hexane (4.11 ml, 47.4 mmol) was slowly added and the reaction mixture was stirred at RT overnight. Sat. NH4Cl was slowly added and the mixture was stirred at RT for 30 min. The product was extracted with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated. The residue was purified by flash chromatography (SG, 0% to 60% EtOAc/Hex) to get 2-(2-methoxyphenyl)cyclopentanol (9.03 g, 47.0 mmol, 99% yield). LC-MS (M+Na)+=215.1. 1H NMR (500 MHz, CDCl3) δ 7.21 (t, J=5.8 Hz, 2H), 6.97 (t, J=7.3 Hz, 1H), 6.88 (d, J=8.2 Hz, 1H), 4.24 (q, J=5.9 Hz, 1H), 3.79 (s, 3H), 3.38-3.27 (m, 2H), 2.23-2.10 (m, 1H), 2.09-1.97 (m, 1H), 1.95-1.85 (m, 1H), 1.85-1.71 (m, 3H).

reactant | (2-methoxyphenyl)magnesium bromide | COC1=C(C=CC=C1)[Mg]Br
reactant | THF | 47.4 mmol, 47.4 ml | C1CCOC1 | C4H8O
reactant | 6-oxabicyclo[3.1.0]hexane | 47.4 mmol, 4.11 ml | C12CCCC2O1 | C5H8O
reactant | NH4Cl | [NH4+].[Cl-]
catalyst | Copper(I) iodide | 3.32 mmol, 0.632 g | [Cu]I
product | 2-(2-methoxyphenyl)cyclopentanol | 47.0 mmol, 9.03 g, 99% yield | COC1=C(C=CC=C1)C1C(CCC1)O | C12H16O2
